US07109202B2
3-[2-(6-Methyl-pyridin-2-ylamino)-5-[1,2,4]triazol-1-yl-thiazol-4-yl]-benzonitrile
3-(2-Bromo-2-[1,2,4]triazol-1-yl-acetyl)-benzonitrile hydrobromide (500 mg, 1.34 mmol) is dissolved in ethanol (5 ml). (6-Methyl-pyridin-2-yl)-thiourea (208 mg, 1.34 mmol) is added and the reaction heated to 90° C. for 2 hours. The precipitate is collected and washed with ethanol twice. The solid is suspended in water and basified with concentrated ammonium hydroxide and the resulting precipitate collected and washed with water to give the title compound after drying. Mass Spec (APCI+) 360.0, m.p. 236–237° C.

reactant | 3-(2-Bromo-2-[1,2,4]triazol-1-yl-acetyl)-benzonitrile hydrobromide | 1.34 mmol, 500 mg | Br.BrC(C(=O)C=1C=C(C#N)C=CC1)N1N=CN=C1
reactant | (6-Methyl-pyridin-2-yl)-thiourea | 1.34 mmol, 208 mg | CC1=CC=CC(=N1)NC(=S)N | C7H9N3S
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 3-[2-(6-Methyl-pyridin-2-ylamino)-5-[1,2,4]triazol-1-yl-thiazol-4-yl]-benzonitrile | CC1=CC=CC(=N1)NC=1SC(=C(N1)C=1C=C(C#N)C=CC1)N1N=CN=C1 | C18H13N7S
